US06005116
(a) 2-Benzoyl-3,3-dimethylbutyric acid ethyl ester
Diisopropylamine (5.6 ml) was dissolved in tetrahydrofuran (56 ml), butyllithium (1.6M hexane solution, 25 ml) was added dropwise thereto at 5° C. with stirring under a nitrogen atmosphere, and the resulting mixture was stirred for 15 minutes. The reaction mixture was cooled to -70° C., and 3,3-dimethylbutyric acid ethyl ester (6.7 ml) was added dropwise thereto, followed by stirring of the resulting mixture for 10 minutes. Then, benzoyl chloride (2.3 ml) was added dropwise to the reaction mixture and the resulting mixture was stirred at the same temperature for 10 minutes. After the reaction, a saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=20/1) to obtain the title compound (4.5 g, 91%) as a colorless oil.

reactant | Diisopropylamine | 5.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6M, 25 ml | C(CCC)[Li]
reactant | 3,3-dimethylbutyric acid ethyl ester | 6.7 ml | C(C)OC(CC(C)(C)C)=O | C8H16O2
reactant | benzoyl chloride | 2.3 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 56 ml | O1CCCC1 | C4H8O
product | 2-Benzoyl-3,3-dimethylbutyric acid ethyl ester | 4.5 g, 91% | C(C)OC(C(C(C)(C)C)C(C1=CC=CC=C1)=O)=O | C15H20O3
